US04731368
2-Sulfamoylthieno[2,3-c]pyridine (Alternate Procedure)
To a solution of potassium ferricyanide (76 g, 0.23 mol) in water (400 ml) was added a solution of potassium hydroxide (68 g, 0.113 mol) in water (150 ml), followed by a suspension of 2-sulfamoyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine (10.8 g, 49.5 mmol) in water (50 ml). This mixture was warmed at 80° C. for 4-6 hours. This solution was acidified with concentrated hydrochloric acid and then made basic with saturated sodium carbonate solution. The product was extracted from this solution with ethyl acetate. The ethyl acetate solution was dried over anhydrous sodium sulfate, filtered through a pad of charcoal and evaporated to give 5.5 g of crude product. This material was chromatographed on silica gel and eluted with ethyl acetate to give 3.7 g (34.9% yield) of pure product; m.p. 191°-193° C.

reactant | potassium hydroxide | 0.113 mol, 68 g | [OH-].[K+]
reactant | 2-sulfamoyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 49.5 mmol, 10.8 g | S(N)(=O)(=O)C1=CC2=C(CNCC2)S1 | C7H10N2O2S2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 400 ml | O | H2O
solvent | water | 150 ml | O | H2O
solvent | water | 50 ml | O | H2O
catalyst | potassium ferricyanide | 0.23 mol, 76 g | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
product | 2-Sulfamoylthieno[2,3-c]pyridine | 3.7 g, 34.9% yield | S(N)(=O)(=O)C1=CC=2C(=CN=CC2)S1 | C7H6N2O2S2
